US07872006B2
To a solution of 3-carboxy-1-(2-chlorophenyl)-5-(4-chlorophenyl)-4-methoxy-1H-pyrazole (1.09 g) in tetrahydrofuran (30 mL) was added dropwise methyl lithium (2.9 mL, 1.04 M diethylether solution) at −78° C. under nitrogen-gas atmosphere and the mixture was stirred at the same temperature for 30 minutes After warming to room temperature, to the reaction mixture was added dropwise vinylmagnesium bromide (7.7 mL, 0.97 M tetrahydrofuran solution) and the mixture was stirred at room temperature for 3 hours. To the reaction mixture was added water and an aqueous 1N HCl solution. After stirring, the mixture was extracted with ethyl acetate. The organic layer was dried over magnesium sulfate and filtered. The filtrate was concentrated in vacuo and the resultant crude product was purified by column chromatography on silica gel (solvent: hexane/ethyl acetate=90/10 to 85/15) to obtain 1-(2-chlorophenyl)-5-(4-chlorophenyl)-4-methoxy-3-vinylcarbonyl-1H-pyrazole (780 mg, yield: 70%) as a colorless solid.

reactant | 3-carboxy-1-(2-chlorophenyl)-5-(4-chlorophenyl)-4-methoxy-1H-pyrazole | 1.09 g | C(=O)(O)C1=NN(C(=C1OC)C1=CC=C(C=C1)Cl)C1=C(C=CC=C1)Cl | C17H12Cl2N2O3
reactant | methyl lithium | 1.04 M, 2.9 mL | C[Li]
reactant | vinylmagnesium bromide | 0.97 M, 7.7 mL | C(=C)[Mg]Br
reactant | HCl | 1N | Cl | ClH
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 1-(2-chlorophenyl)-5-(4-chlorophenyl)-4-methoxy-3-vinylcarbonyl-1H-pyrazole | 780 mg, yield: 70% | ClC1=C(C=CC=C1)N1N=C(C(=C1C1=CC=C(C=C1)Cl)OC)C(=O)C=C | C19H14Cl2N2O2
